US04083977
Yet another oxime intermediate is prepared from t-butyl methyl ketone, which is first transformed into t-butylglyoxal using the procedure of Fuson et al., J. Am. Chem. Soc. 61, 1938 (1939). The t-butylglyoxal, in aqueous solution at pH 4-5, is allowed to react with acetone oxime (commercially available) at about room temperature for about two days. The reaction product mixture is worked up by extracting it with ether, and the t-butylglyoxal oxime is isolated from the ether extract as colorless needles having a melting point of about 50°-52° C.

reactant | t-butyl methyl ketone | CC(=O)C(C)(C)C | C6H12O
reactant | t-butylglyoxal | C(C)(C)(C)C(=O)C=O | C6H10O2
reactant | acetone oxime | CC(C)=NO | C3H7NO
product | t-butylglyoxal oxime | C(C)(C)(C)C(C=O)=NO | C6H11NO2
